US09402841B2
Step B: (S)-tert-butyl 3-((3-cyano-7-fluoroisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate
To a solution of (S)-tert-butyl 3-((3-chloro-7-fluoroisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate (0.5 g, 1.37 mmol) in DMF (15 mL) was added Zn(CN)2 (0.48 g, 4.1 mmol), and Pd(PPh3)4(0.16 g, 0.14 mmol) under a nitrogen atmosphere. The mixture was heated to 160° C. for 30 minutes in a microwave reactor. The mixture was partition between EtOAc (50 mL) and water (50 mL). The aqueous layer was extracted with EtOAc (3×50 mL). The organic layers were combined, washed with saturated aqueous NaCl (3×50 mL) and concentrated in vacuo. The crude product was purified by column chromatography eluting with petroleum ether and ethyl acetate (PE/EtOAc=10:1-5:1 gradient) to give the title compound (0.36 g, 72%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.38-8.35 (d, J=10.8 Hz, 1H), 8.01-7.97 (m, 1H), 7.77-7.72 (m, 3H), 4.66-4.58 (m, 1H), 3.69-3.67 (m, 1H), 3.48-3.46 (m, 1H), 3.39-3.37 (m, 1H), 3.28-3.27 (m, 1H), 2.2 (s, 1H), 1.97-1.91 (m, 1H), 1.40 (s, 9H).

reactant | (S)-tert-butyl 3-((3-chloro-7-fluoroisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 1.37 mmol, 0.5 g | ClC=1N=C(C2=CC(=CC=C2C1)F)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H21ClFN3O2
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 4.1 mmol, 0.48 g | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.14 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-butyl 3-((3-cyano-7-fluoroisoquinolin-1-yl)amino)pyrrolidine-1-carboxylate | 0.36 g, 72% | C(#N)C=1N=C(C2=CC(=CC=C2C1)F)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C19H21FN4O2
